US07001899B2
Preparation of isoquinoline-1-carboxylic acid {6-(benzoylamino-methyl)-1-[(2-hydroxy-5-oxo-tetrahydro-furan-3-ylcarbamoyl)-methyl]-2-oxo-2,3,4,7,-tetrahydro-1H-azepin-3-yl}-amide (33):
A solution of isoquinoline-1-carboxylic acid {6-(benzoylamino-methyl)-1-[(2-ethoxy-5-oxo-tetrahydro-furan-3-ylcarbamoyl)-methyl]-2-oxo-2,3,4,7,-tetrahydro-1H-azepin-3-yl}-amide, 32, as prepared in the above example, in CH3CN/H2O is treated with excess trifluoroacetic acid. The solution is stirred several hours then purified by preparative reverse phase HPLC to afford 51 mg (51% yield) of the desired product. 1H NMR (CD3OD) δ 9.15–9.12 (d, J=8.4 Hz, 1H), 8.56–8.54 (d, J=5.7 Hz, 1H), 8.08–8.04 (m, 2H), 7.92–7.76 (m, 4H), 7.57–7.50 (m, 3H), 5.83 (bs, 1H), 5.61–5.56 (d, d, J=12.6, 3.9 Hz, 1H), 4.90–4.85 (d, J=17.4 Hz, 1H), 4.63–4.60 (m, 1H), 4.41–4.01 (m, 3H), 3.65–3.58 (d, d, J=17.4, 2.7 Hz, 1H), 2.91–2.85 (bd, J=18.9 Hz, 1H), 2.75–2.65 (m, 1H), 2.55–2.46 (m, 2H); MS 572 (M+H).

reactant | isoquinoline-1-carboxylic acid {6-(benzoylamino-methyl)-1-[(2-ethoxy-5-oxo-tetrahydro-furan-3-ylcarbamoyl)-methyl]-2-oxo-2,3,4,7,-tetrahydro-1H-azepin-3-yl}-amide | C(C1=CC=CC=C1)(=O)NCC1=CCC(C(N(C1)CC(NC1C(OC(C1)=O)OCC)=O)=O)NC(=O)C1=NC=CC2=CC=CC=C12 | C32H33N5O7
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH3CN H2O | CC#N.O
product | isoquinoline-1-carboxylic acid {6-(benzoylamino-methyl)-1-[(2-hydroxy-5-oxo-tetrahydro-furan-3-ylcarbamoyl)-methyl]-2-oxo-2,3,4,7,-tetrahydro-1H-azepin-3-yl}-amide | 51 mg, 51% yield | C(C1=CC=CC=C1)(=O)NCC1=CCC(C(N(C1)CC(NC1C(OC(C1)=O)O)=O)=O)NC(=O)C1=NC=CC2=CC=CC=C12 | C30H29N5O7
